US05583130
Step K: 1-(4-Toluenesulfonyl)-2-(2-bromophenyl) imidazole
A solution of 2.50 g (11.6 mmol ) of 2-(2-bromophenyl)imidazole in 10 mL of methylene chloride was treated with 1.9 mL of triethylamine (13.8 mmol), 2.64 g (13.8 mmol) of p-toluenesulfonyl chloride and 100 mg of 4-dimethylaminopyridine. The reaction mixture was stirred at room temperature for 15 minutes then transferred to a separatory funnel and washed with water, 5% aqueous citric acid, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The organic layer was removed, dried over magnesium sulfate, filtered and solvents removed under vacuum. The crude product was chromatographed on silica, eluting with hexane/ethyl acetate (1:1), to give 4.16 g (11.0 mmol 95%) of the product which was recrystallized from hexane. FAB-MS: calculated for C16H13BrN2O2S 376,378; found 377,379 (M+H, 50%). 1H NMR (200 MHz, CDCl3): 2.32 (s, 3H), 7.09 (d, 2 Hz, 1H), 7.12 (d, 8 Hz, 2H), 7.28 (m, 5H), 7.46 (m, 1H), 7.57 (d, 2 Hz, 1H).

reactant | 2-(2-bromophenyl)imidazole | 11.6 mmol, 2.50 g | BrC1=C(C=CC=C1)C=1NC=CN1 | C9H7BrN2
reactant | triethylamine | 13.8 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 13.8 mmol, 2.64 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(4-Toluenesulfonyl)-2-(2-bromophenyl) imidazole | C1(=CC=C(C=C1)S(=O)(=O)N1C(=NC=C1)C1=C(C=CC=C1)Br)C | C16H13BrN2O2S
